US08207167B2
Benzyl 3-(1,2-dihydroxyethyl)phenylcarbamate
1-(3-Aminophenyl)ethane-1,2-diol (10 g) was dissolved in DCM (80 mL). H2O (80 mL) and Na2CO3 (10.98 g) were added and the mixture cooled to 0° C. Benzylchloroformate (22 g) was added drop-wise over 20 minutes and the reaction mixture stirred at room temperature overnight. The organic phase was separated, dried over Na2SO4 and concentrated to give a crude product which was purified by column chromatography to give the title compound (8 g, 45%).

reactant | 1-(3-Aminophenyl)ethane-1,2-diol | 10 g | NC=1C=C(C=CC1)C(CO)O | C8H11NO2
reactant | H2O | 80 mL | O | H2O
reactant | Na2CO3 | 10.98 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Benzylchloroformate | 22 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 3-(1,2-dihydroxyethyl)phenylcarbamate | 8 g, 45% | OC(CO)C=1C=C(C=CC1)NC(OCC1=CC=CC=C1)=O | C16H17NO4
